US08349851B2
A mixture of ethyl 4-chloroquinazoline-2-carboxylate (1 g, 4.2 mmol) in THF (50 mL) was filtered, and to the filtrate at −30° C. under Ar was added 0.5 M (3-chloro-4-fluorophenyl)magnesium bromide/THF (10.4 mL, 5.2 mmol). After stirring at −30° C. for 0.75 h, additional 0.5 M (3-chloro-4-fluorophenyl)magnesium bromide/THF (4.2 mL). After 1 h, the reaction was quenched by addition of saturated aq ammonium chloride and allowed to warm to rt. The mixture was extracted with EtOAc, and the extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford (3-chloro-4-fluorophenyl)(4-chloroquinazolin-2-yl)methanone (495 mg, 37%) which was used directly in the next step. LC-MS (ESI) m/z 321 (M+H)+.

reactant | ethyl 4-chloroquinazoline-2-carboxylate | 4.2 mmol, 1 g | ClC1=NC(=NC2=CC=CC=C12)C(=O)OCC | C11H9ClN2O2
reactant | (3-chloro-4-fluorophenyl)magnesium bromide THF | 5.2 mmol, 0.5 M, 10.4 mL | ClC=1C=C(C=CC1F)[Mg]Br.C1CCOC1
reactant | (3-chloro-4-fluorophenyl)magnesium bromide THF | 0.5 M, 4.2 mL | ClC=1C=C(C=CC1F)[Mg]Br.C1CCOC1
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (3-chloro-4-fluorophenyl)(4-chloroquinazolin-2-yl)methanone | 495 mg, 37% | ClC=1C=C(C=CC1F)C(=O)C1=NC2=CC=CC=C2C(=N1)Cl | C15H7Cl2FN2O
